US07776875B2
Preparation of Chiral (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of chiral (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-[5-fluoro-2-methylphenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (20 mg, 0.035 mmol) and CDI (11 mg, 0.068 mmol) in DMF (0.2 mL) was heated at 60° C. for 30 min, and then cooled to root temperature. To this solution was added a mixture of methanesulfonamide (19 mg, 0.2 mmol) and NaH (8 mg, 60%, 0.2 mmol) in DMF (0.2 mL). The resulting mixture was stirred at room temperature for 10 min, purified by prep-HPLC to give the title compound as a white solid (7 mg).

reactant | (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-[5-fluoro-2-methylphenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.035 mmol, 20 mg | ClC1=CC=C2C(=C1)NC([C@]21[C@@H](NC(C[C@@H]1C1=C(C=CC(=C1)Cl)OC(CO)(C)C)=O)C1=C(C=CC(=C1)F)C)=O | C29H27Cl2FN2O4
reactant | CDI | 0.068 mmol, 11 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 0.2 mmol, 19 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 0.2 mmol, 8 mg | [H-].[Na+]
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 7 mg | ClC1=CC=C2C(=C1)NC([C@]21[C@@H](NC(C[C@@H]1C1=C(C=CC(=C1)Cl)OC(C(=O)NS(=O)(=O)C)(C)C)=O)C1=C(C=CC(=C1)F)C)=O | C30H28Cl2FN3O6S
